US04837305
1,2-Epoxy-3-(1-Naphthyloxy)-Propane (Compound X, R=1-naphthyl)
To a solution of β-naphthol (86.09 g. 0.5 mol) and epichlorohydrin (54.6 ml, 0.7 mol) in 200 ml dioxane was added a solution of sodium hydroxide (24.0 g, 0.6 mol) in 50 ml water. The mixture was refluxed for 3 hr during which time sodium chloride precipitated out. The dioxane was evaporated in vacuo and the remaining aqueous solution extracted twice with chloroform. The combined organic fractions were then washed twice with brine and dried over sodium sulfate. After removing the drying agent by filtration, the chloroform was evaporated under reduced pressure. The residual oil showed a major product with only two very minor impurities by thin layer chromatography (95:5:3 chloroform/methanol/acetic acid, Rf =0.78) and so was not purified further. Yield: 108 g.

reactant | β-naphthol | 0.5 mol, 86.09 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | epichlorohydrin | 0.7 mol, 54.6 ml | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 0.6 mol, 24.0 g | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | 1,2-Epoxy-3-(1-Naphthyloxy)-Propane | O1CC1COC1=CC=CC2=CC=CC=C12 | C13H12O2
